US08314097B2
4′-Fluoro-6-(6,7,8,9-tetrahydro-5H-imidazo[1,5-a]azepin-5-yl)biphenyl-3-carbonitrile
To 3-bromo-4-(6,7,8,9-tetrahydro-5H-imidazo[1,5-a]azepin-5-yl)benzonitrile (0.507 g, 1.59 mmol) is added DME (7.0 mL). To this is added aqueous 2M sodium carbonate (3.0 mL, 6 mmol) followed by 4-fluorophenylboronic acid (0.552 g, 3.97 mmol). This mixture is transferred to a microwave safe vial. Tetrakis(triphenylphosphine) palladium(0) (0.03 g, 0.025 mmol) is added, and the vessel sealed. The mixture is stirred briefly (30 seconds) and placed in a microwave for 25 minutes at 125° C. The vial is allowed to cool and unsealed. The mixture is extracted into ethyl acetate and washed with saturated sodium bicarbonate. The organic layer is removed in vacuo. The resulting material is subjected to chromatography (Silica gel, 1:50 to 1:25 methanol:methylene chloride) to give the desired product. MS (ESI) m/z 332 (M+H)

reactant | 3-bromo-4-(6,7,8,9-tetrahydro-5H-imidazo[1,5-a]azepin-5-yl)benzonitrile | 1.59 mmol, 0.507 g | BrC=1C=C(C#N)C=CC1C1CCCCC=2N1C=NC2 | C15H14BrN3
reactant | sodium carbonate | 6 mmol, 2M, 3.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluorophenylboronic acid | 3.97 mmol, 0.552 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
catalyst | Tetrakis(triphenylphosphine) palladium(0) | 0.025 mmol, 0.03 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | DME | 7.0 mL | COCCOC | C4H10O2
product | 4′-Fluoro-6-(6,7,8,9-tetrahydro-5H-imidazo[1,5-a]azepin-5-yl)biphenyl-3-carbonitrile | FC1=CC=C(C=C1)C1=CC(=CC=C1C1CCCCC=2N1C=NC2)C#N | C21H18FN3
